US05747500
1-allyl-5-ethyl-6-phenylthio-2,4-pyrimidinedione;
1-(2-butenyl)-5-ethyl-6-phenylthio-2,4-pyrimidinedione; 1-cinnamyl-5-ethyl-6-phenylthio-2,4-pyrimidinedione; 1-(3-methyl-2-butenyl)-5-ethyl-6-phenylthio-2,4-pyrimidinedione; 1-(4-ethoxy-2-butenyl)-5-ethyl-6-phenylthio-2,4-pyrimidinedione; 1-(4-benyloxy-2-butenyl)-5-ethyl-6-phenylthio-2,4-pyrimidinedione; 1-propargyl-5-ethyl-6-phenylthio-2,4-pyrimidinedione;

reactant | 1-(2-butenyl)-5-ethyl-6-phenylthio-2,4-pyrimidinedione | C(C=CC)N1C(NC(C(=C1SC1=CC=CC=C1)CC)=O)=O | C16H18N2O2S
reactant | 1-cinnamyl-5-ethyl-6-phenylthio-2,4-pyrimidinedione | C(C=CC1=CC=CC=C1)N1C(NC(C(=C1SC1=CC=CC=C1)CC)=O)=O | C21H20N2O2S
reactant | 1-(3-methyl-2-butenyl)-5-ethyl-6-phenylthio-2,4-pyrimidinedione | CC(=CCN1C(NC(C(=C1SC1=CC=CC=C1)CC)=O)=O)C | C17H20N2O2S
reactant | 1-(4-ethoxy-2-butenyl)-5-ethyl-6-phenylthio-2,4-pyrimidinedione | C(C)OCC=CCN1C(NC(C(=C1SC1=CC=CC=C1)CC)=O)=O | C18H22N2O3S
reactant | 1-(4-benyloxy-2-butenyl)-5-ethyl-6-phenylthio-2,4-pyrimidinedione | C(C1=CC=CC=C1)OCC=CCN1C(NC(C(=C1SC1=CC=CC=C1)CC)=O)=O | C23H24N2O3S
reactant | 1-propargyl-5-ethyl-6-phenylthio-2,4-pyrimidinedione | C(C#C)N1C(NC(C(=C1SC1=CC=CC=C1)CC)=O)=O | C15H14N2O2S
product | 1-allyl-5-ethyl-6-phenylthio-2,4-pyrimidinedione | C(C=C)N1C(NC(C(=C1SC1=CC=CC=C1)CC)=O)=O | C15H16N2O2S
